US04539419
A mixture of 1.5180 g of 1,3-dihydroxynaphthalene and 1.70 g of anhydrous potassium carbonate in 10 ml of anhydrous acetone was stirred at room temperature for 1 hour. Methyl bromoacetate (0.91 ml) was added and stirring at room temperature was continued for 50 hours. The solvent was removed in vacuo and the residue was acidified and extracted with ethyl acetate. The dried (magnesium sulfate) extract was concentrated in vacuo and the product was purified by high pressure liquid chromatography using 20% ethyl acetate-toluene to give 0.419 g (19% yield) of [(4-hydroxy-2-naphthalenyl)oxy]acetic acid methyl ester as an oil.

reactant | 1,3-dihydroxynaphthalene | 1.5180 g | OC1=CC(=CC2=CC=CC=C12)O | C10H8O2
reactant | potassium carbonate | 1.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl bromoacetate | 0.91 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | [(4-hydroxy-2-naphthalenyl)oxy]acetic acid methyl ester | 0.419 g, 19% yield | COC(COC1=CC2=CC=CC=C2C(=C1)O)=O | C13H12O4
